US05591752
11-(2-Carboxyethylthio)-2-(6-methoxyquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine: (Exemplary compound 229)
11-Hydroxy-2-(6-methoxyquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine and 3-mercaptopropionic acid were used and reacted in the same manner as in Example 1 to obtain the title compound.

reactant | 11-Hydroxy-2-(6-methoxyquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | OC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=C(C=C3C=C2)OC | C25H21NO4
reactant | 3-mercaptopropionic acid | SCCC(=O)O | C3H6O2S
product | 11-(2-Carboxyethylthio)-2-(6-methoxyquinolin-2-yl)methoxy-6,11-dihydrodibenz[b,e]oxepine | C(=O)(O)CCSC1C2=C(OCC3=C1C=CC=C3)C=CC(=C2)OCC2=NC3=CC=C(C=C3C=C2)OC | C28H25NO5S
